US06727264B1
1-{[(2S)-3-CHLORO-2-METHYLPROPYL]OXY}-3-FLUOROBENZENE:
Prepared by Procedure U and Scheme AK using 3-fluorophenol and (2R)-1-bromo-3-chloro-2-methylpropane.

reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | (2R)-1-bromo-3-chloro-2-methylpropane | BrC[C@@H](CCl)C | C4H8BrCl
product | 1-{[(2S)-3-CHLORO-2-METHYLPROPYL]OXY}-3-FLUOROBENZENE | ClC[C@H](COC1=CC(=CC=C1)F)C | C10H12ClFO
